US09145415B2
To a solution of (4-(benzyloxy)-2-(methylthio)pyrimidin-5-yl)methanol (S26, 818 mg) in toluene (30 mL), manganese dioxide (8.13 g) was added at room temperature, and the mixture was stirred at 50° C. for 1 hour. The reaction mixture was cooled to room temperature, and then the insoluble matter was removed by filtration through Cerite. The solvent was evaporated under reduced pressure to obtain oily 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde (S20, 666 mg).

reactant | (4-(benzyloxy)-2-(methylthio)pyrimidin-5-yl)methanol | 818 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1CO)SC | C13H14N2O2S
solvent | toluene | 30 mL | C1(=CC=CC=C1)C | C7H8
catalyst | manganese dioxide | 8.13 g | [O-2].[O-2].[Mn+4]
product | 4-(benzyloxy)-2-(methylthio)pyrimidine-5-carbaldehyde | 666 mg | C(C1=CC=CC=C1)OC1=NC(=NC=C1C=O)SC | C13H12N2O2S
